US06340759B1
(281-5) 6-(4-Acetylphenyl)-(4-ethylpiperazin-1-yl)thieno[3,2-c]pyridine
6-(4-Ethynylphenyl)-(4-ethylpiperazin-1-yl)thieno[3,2-c]pyridine (0.59 g) was reacted in formic acid (15 ml) at 100° C. for 12 hr. The reaction solution was evaporated, basified with an aqueous solution of potassium carbonate, and then extracted with ethyl acetate. The organic layer was washed with water and brine, dried and concentrated. The resulting residue was purified by NH-silica gel column chromatography (ethyl acetate/hexane system), to give 0.37 g of the title compound as a pale yellow oil.

reactant | 6-(4-Ethynylphenyl)-(4-ethylpiperazin-1-yl)thieno[3,2-c]pyridine | 0.59 g | C(#C)C1=CC=C(C=C1)C1=CC2=C(C=N1)C=C(S2)N2CCN(CC2)CC | C21H21N3S
reactant | formic acid | 15 ml | C(=O)O | CH2O2
product | 6-(4-Acetylphenyl)-(4-ethylpiperazin-1-yl)thieno[3,2-c]pyridine | 0.37 g | C(C)(=O)C1=CC=C(C=C1)C1=CC2=C(C=N1)C=C(S2)N2CCN(CC2)CC | C21H23N3OS
